US06900205B2
NaOH (160 mg, 4.0 mmol) was added to a stirred solution of ethyl {[7-anilino-5-oxo-8-phenyl-4-(trifluoromethyl)-5,8-dihydro-1,8-naphthyridin-2-yl]sulfanyl}acetate (30.0 mg, 0.060 mmol) in aqueous EtOH (10 mL EtOH in 4mL H2O). The mixture was allowed to stir for 4 h and was then concentrated in vacuo. The reaction was acidified with 1N HCl and extracted with CH2Cl2. The organic layer was dried over MgSO4, and concentrated in vacuo. Purification by preparative HPLC (10% CH3CN in water with 0.1% TFA to 95% CH3CN in water, 10 mL/min, 10 min) provided {[7-anilino-5-oxo-8-phenyl-4-(trifluoromethyl)-5,8-dihydro-1,8-naphthyridin-2-yl]sulfanyl}acetic acid (19.0 mg, 66%): LCMS RT: 2.50 min, MH+: 472.1.

reactant | NaOH | 4.0 mmol, 160 mg | [OH-].[Na+]
reactant | ethyl {[7-anilino-5-oxo-8-phenyl-4-(trifluoromethyl)-5,8-dihydro-1,8-naphthyridin-2-yl]sulfanyl}acetate | 0.060 mmol, 30.0 mg | N(C1=CC=CC=C1)C1=CC(C=2C(=CC(=NC2N1C1=CC=CC=C1)SCC(=O)OCC)C(F)(F)F)=O | C25H20F3N3O3S
solvent | EtOH | 10 mL | CCO | C2H6O
product | {[7-anilino-5-oxo-8-phenyl-4-(trifluoromethyl)-5,8-dihydro-1,8-naphthyridin-2-yl]sulfanyl}acetic acid | 19.0 mg, 66% | N(C1=CC=CC=C1)C1=CC(C=2C(=CC(=NC2N1C1=CC=CC=C1)SCC(=O)O)C(F)(F)F)=O | C23H16F3N3O3S
